US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid 2,2,3,3,3-pentafluoropropyl Ester
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid (20 mg, 43 μmol), EDC (40.16 mg, 0.2587 mmol), and HOBt hydrate (39.62 mg, 0.2587 mmol) were combined in DCM (0.5 mL, 8 mmol) and stirred at room temperature. After 10 minutes, 2,2,3,3,3-pentafluoro-1-propanol (51.8 mg, 345 μmol) was added. The resulting mixture was stirred at room temperature overnight to yield the title compound (5.9 mg, purity 100%) as a TFA salt. MS m/z [M+H]+ calc'd for C24H20ClF6N3O6, 596.09. found 596.

reactant | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid | 43 μmol, 20 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)O)O)F | C21H19ClFN3O6
reactant | EDC | 0.2587 mmol, 40.16 mg
reactant | HOBt hydrate | 0.2587 mmol, 39.62 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | DCM | 8 mmol, 0.5 mL | C(Cl)Cl | CH2Cl2
reactant | 2,2,3,3,3-pentafluoro-1-propanol | 345 μmol, 51.8 mg | FC(CO)(C(F)(F)F)F | C3H3F5O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid 2,2,3,3,3-pentafluoropropyl Ester | 5.9 mg | FC(COC([C@@H](CN(NC(=O)C1=CC(=NO1)OC)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O)(C(F)(F)F)F | C24H20ClF6N3O6
